US09085555B2
A. 5,6-Dimethoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole
The title compound was prepared in a similar manner as described by G. Luo et al., J. Org. Chem. 2006, 71, 5392-5395: To a solution of 5,6-dimethoxyindazole [7746-30-7] (356 mg, 2.00 mmol) in THF (20 mL) was added dicyclohexylmethylamine (0.51 mL, 2.40 mmol) followed by SEM-Cl (0.43 mL, 2.40 mmol). The mixture was stirred at RT for 24 h, followed by dilution with EtOAc and quench with 1N aqueous NaOH solution. The layers were separated and the organic layer was washed with water and brine, then dried (Phase separator) and evaporated. The residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 4:1 to 1:1) to separate from the regioisomer 5,6-dimethoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole and to provide the title compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.37; MS (LC/MS): 309 [M+H; tR (HPLC conditions k): 3.70 min.

reactant | 5,6-dimethoxyindazole | 2.00 mmol, 356 mg | COC=1C=C2C=NNC2=CC1OC | C9H10N2O2
reactant | dicyclohexylmethylamine | 2.40 mmol, 0.51 mL | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
reactant | SEM-Cl | 2.40 mmol, 0.43 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5,6-Dimethoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | COC1=CC2=CN(N=C2C=C1OC)COCC[Si](C)(C)C | C15H24N2O3Si
